US05382590
The procedure is analogous to that described in Example 23, but 3.1 g of N-ethyl-N-phenyl-2-(N-phenyl-2-phthalimidoacetamido)acetamide, 0.4 g of hydrazine hydrate and 0.54 g of 3-methylphenyl isocyanate are used as the starting material. The product obtained is purified by chromatography on 20 g of silica (0.065-0.200 mm) contained in a column 1.7 cm in diameter [eluent: methylene chloride], collecting 20 cm3 fractions. Fractions 10 to 23 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from diethyl ether, 0.55 g of N-ethyl-N-phenyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide melting at 158° C. is obtained.

reactant | N-ethyl-N-phenyl-2-(N-phenyl-2-phthalimidoacetamido)acetamide | 3.1 g | C(C)N(C(CN(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C2=CC=CC=C2)=O)C2=CC=CC=C2 | C26H23N3O4
reactant | hydrazine hydrate | 0.4 g | O.NN
reactant | 3-methylphenyl isocyanate | 0.54 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-ethyl-N-phenyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide | 0.55 g | C(C)N(C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C26H28N4O3
